US08735436B2
Preparation of tert-butyl 2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenyloxy)-2-methylpropanoate
A mixture of (5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-ol, (0.83 g, 3.14 mmol), tetrabutylammonium chloride (0.24 g, 0.85 mmol) and t-butyl α-bromo isobutyrate (3.50 g, 15.7 mmol) was dissolved in toluene (15 mL) and placed under nitrogen. An aqueous solution of sodium hydroxide (50%, 5 mL) was added slowly under vigorous stirring at room temperature. The resulting mixture was heated to 60° C. and stirred for six hours. The mixture was cooled, added water and extracted three times with ether. The combined organic extract was washed with brine, dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography on silica gel using a gradient of 5-10% ethyl acetate in heptane as eluent. Concentration of the appropriate fractions afforded 0.60 g (44% yield) of the title compound as an oil. MS (electro spray): 453.3 [M+Na]+.

reactant | (5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-ol | 3.14 mmol, 0.83 g | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)O | C20H32O
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium chloride | 0.85 mmol, 0.24 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-butyl 2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenyloxy)-2-methylpropanoate | 0.60 g, 44% yield | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)OC(C(=O)OC(C)(C)C)(C)C | C28H46O3
